US04642363
Preparation of trimethylpentafluorophenoxysilane
In a manner similar to Example 1, 2.5 mol of boiling trimethylchlorosilane was placed without solvent in a 2-liter reactor which contained, instead of the packed column, a reflux condenser (nitrogen gas flooded, with hydrogen chloride exhaust), and about 2 mol (370 g) of pentafluorophenol (m.p. 39° C.) in molten form was fed into it over a period of 30 minutes. The reactor temperature then rose to about 124° C. As boiling continued the temperature rose to about 160° C. in 90 minutes. Then a distillation was performed at about 300 mbar and 118° C. The yield of trimethylpentafluorophenoxysilane was virtually quantitative.

reactant | trimethylchlorosilane | 2.5 mol | C[Si](Cl)(C)C | C3H9ClSi
reactant | hydrogen chloride | Cl | ClH
reactant | pentafluorophenol | about 2 mol, 370 g | FC1=C(C(=C(C(=C1O)F)F)F)F | C6HF5O
product | trimethylpentafluorophenoxysilane | C[Si](OC1=C(C(=C(C(=C1F)F)F)F)F)(C)C | C9H9F5OSi
